US04443447
To a 0.8 g sample of 8-(4-aminophenyl)-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid in 5 ml of hot acetic acid was added dropwise 0.3 ml of chloroacetyl chloride. The resulting solution was cooled and stirred for 20 minutes and then filtered. The solid was dried to provide golden crystals of 8-(4-chloroacetamidophenyl)-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid hydrate, m.p. 297° C. Analysis: Calculated for C22H19N2O4Cl.0.5H2O: %C, 63.4; %H, 4.6; %N, 6.7; Found: %C, 62.9; %H, 4.8; %N, 6.7. The structural assignment was confirmed by infrared and nuclear magnetic resonance spectral analyses.

reactant | 8-(4-aminophenyl)-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | NC1=CC=C(C=C1)C1=CC=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O | C20H18N2O3
reactant | chloroacetyl chloride | 0.3 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 8-(4-chloroacetamidophenyl)-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid hydrate | O.ClCC(=O)NC1=CC=C(C=C1)C1=CC=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O | InChI=1S/C22H19ClN2O4.H2O/c1-12-2-7-16-15(13-3-5-14(6-4-13)24-19(26)10-23)8-9-17-20(16)25(12)11-18(21(17)27)22(28)29;/h3-6,8-9,11-12H,2,7,10H2,1H3,(H,24,26)(H,28,29);1H2
